US04686208
7. N-(D-Lyxopyranosyl)-N-dodecyl-dodecanoic acid amide
10 g of D-lyxose are dissolved in 120 ml of isopropanol and 60 ml of water and the solution is warmed to 70° C. 18 g of dodecylamine are added. After a clear solution has formed, the temperature is maintained for a further 15 minutes. The mixture is cooled to room temperature and evaporated in vacuo. 10 g of the resulting syrup are dissolved in 100 ml of tetrahydrofuran and 10 ml of methanol, and 10 g of sodium carbonate are added. 5.5 g of dodecanoic acid chloride, dissolved in 20 ml of tetrahydrofuran, are added dropwise at 0° C. When the reaction has ended, the mixture is worked up, and the product purified, as described in Example 2.

reactant | D-lyxose | 10 g | O=C[C@@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | water | 60 ml | O | H2O
reactant | dodecylamine | 18 g | C(CCCCCCCCCCC)N | C12H27N
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | N-(D-Lyxopyranosyl)-N-dodecyl-dodecanoic acid amide | C1([C@@H](O)[C@@H](O)[C@H](O)CO1)N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCC | C29H57NO5
